US04999359
1-(piperidin-1-yl)methyl-2-(3,4-dichlorophenyl)acetyl-1,2,3,4-tetrahydro-5H-pyrido[4,3-b]indole
Prepared as Ex. No. 12, from 1.1 g (4.08 mmoles) of crude 1-(piperidin-1-yl)methyl-1,2,3,4-tetrahydro-5H-pyrido[4,3-b]indole, 1.12 g (8.10 mmoles) of anhydrous potassium carbonate and 1.1 g (4.92 mmoles) of 3,4-dichlorophenylacetylchloride in 40 ml of dry chloroform.

reactant | 1-(piperidin-1-yl)methyl-1,2,3,4-tetrahydro-5H-pyrido[4,3-b]indole | 4.08 mmoles, 1.1 g | N1(CCCCC1)CC1NCCC=2NC=3C=CC=CC3C21 | C17H23N3
reactant | potassium carbonate | 8.10 mmoles, 1.12 g | C([O-])([O-])=O.[K+].[K+]
reactant | 3,4-dichlorophenylacetylchloride | 4.92 mmoles, 1.1 g | ClC=1C=C(C=CC1Cl)CC(=O)Cl | C8H5Cl3O
solvent | chloroform | 40 ml | C(Cl)(Cl)Cl | CHCl3
product | 1-(piperidin-1-yl)methyl-2-(3,4-dichlorophenyl)acetyl-1,2,3,4-tetrahydro-5H-pyrido[4,3-b]indole | N1(CCCCC1)CC1(NCCC=2NC=3C=CC=CC3C21)C(CC2=CC(=C(C=C2)Cl)Cl)=O | C25H27Cl2N3O
